US05512575
1-(2-Chloro-9,10-dihydro-9,10-methanoanthracen-9-ylmethyl)-4-(5-(hydroxymethyl)-3-pyridyl)piperidin-4-ol
A tetrahydrofuran solution (15 mL) of 4-(5-(tert-butyldimethylsilyl)oxymethyl-3-pyridyl)-1-(2-chloro-9,10-dihydro-9,10-methanoanthracen-9-ylmethyl)piperidin-4-ol (1.70 g, 3.04 mmol) was cooled to 0° C. under nitrogen and treated with tetrabutylammonium fluoride (1.0N in tetrahydrofuran, 3.20 mL, 3.20 mmol, 1.05 eq). The reaction was warmed to room temperature and stirred at that temperature for 3 h. Water (15 mL) was added and the resulting aqueous phase was extracted with ethyl acetate (3×15 mL). Combined organic extracts were dried over anhydrous sodium sulfate, filtered, and reduced to an oil. This procedure resulted in 1.20 g (89%) of the title compound. TLC analysis (Rf 0.11, 5% methanol in diethyl ether). No additional purification was required. 1H NMR (CDCl3, 250 MHz) 8.62 (s, 1H), 8.42 (s, 1H), 7.84 (s, 1H), 7.21 (m, 4H), 6.94 (m, 3H), 4.69 (s, 2H), 4.27 (s, 1H), 3.44 (s, 2H), 2.90 (m, 2H), 2.74 (m, 2H), 2.62 (d, J=1.3 Hz, 2H), 2.11 (m, 2H), 1.76 (m, 2H) MS (CI, CH4) m/z 447 (M+1,100), 449 (32), 475 (M+29,19), 429 (71), 431 (25). The free base was dissolved in ether and acidified with ethereal HCl. The hydrochloride salt was filtered, rinsed with fresh ether and dried in vacuo (room temperature, 10 pascal, 18 h) to yield a white solid, mp 235°-240° C. (dec).

reactant | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
reactant | 4-(5-(tert-butyldimethylsilyl)oxymethyl-3-pyridyl)-1-(2-chloro-9,10-dihydro-9,10-methanoanthracen-9-ylmethyl)piperidin-4-ol | 3.04 mmol, 1.70 g | [Si](C)(C)(C(C)(C)C)OCC=1C=C(C=NC1)C1(CCN(CC1)CC12C3=CC=CC=C3C(C=3C=CC(=CC13)Cl)C2)O | C33H41ClN2O2Si
reactant | tetrabutylammonium fluoride | 3.20 mmol, 1.0N, 3.20 mL, 1.05 eq | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | Water | 15 mL | O | H2O
product | 1-(2-Chloro-9,10-dihydro-9,10-methanoanthracen-9-ylmethyl)-4-(5-(hydroxymethyl)-3-pyridyl)piperidin-4-ol | 1.20 g, 89% | ClC1=CC=2C3(C4=CC=CC=C4C(C2C=C1)C3)CN3CCC(CC3)(O)C=3C=NC=C(C3)CO | C27H27ClN2O2
